US04957538
Ethyl 2-chloro-3-(2-methoxyethoxy)-4-ethylthiobenzoate
A solution of 10 g (34 mmole) ethyl 2,4-dichloro-3-(2-methoxyethoxy)benzoate, 10 g (4 eq) ethanethiol and 10 g (2 eq) potassium carbonate in 100 mL DMF was heated (approximately 100° C.) for 2 hours, then let cool overnight. Added 400 mL diethyl ether and washed with 100 mL water (two times), 100 mL 10% HCl and 100 mL 10% NaOH. Dried (MgSO4) and reduced under vacuum. Yield 10 g (31 mmole) of an oil.

reactant | ethyl 2,4-dichloro-3-(2-methoxyethoxy)benzoate | 34 mmole, 10 g | ClC1=C(C(=O)OCC)C=CC(=C1OCCOC)Cl | C12H14Cl2O4
reactant | ethanethiol | 10 g, 4 eq | C(C)S | C2H6S
reactant | potassium carbonate | 10 g, 2 eq | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl ether | 400 mL | C(C)OCC | C4H10O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-chloro-3-(2-methoxyethoxy)-4-ethylthiobenzoate | ClC1=C(C(=S)OCC)C=CC(=C1OCCOC)CC | C14H19ClO3S
